US08044052B2
Diethyl 3-(4-(trifluoromethyl)phenoxy)benzylphosphonate
1-(Chloromethyl)-3-(4-(trifluoromethyl)phenoxy)benzene (1.3 g, 4.5 mmol) was treated neat with triethylphosphite (1.2 mL, 6.8 mmol) and heated to 150° C. After 16 h, the reaction mixture was cooled to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (0-30%, EtOAc:CH2Cl2) to afford the title compound (1.76 g) as a clear oil.

reactant | 1-(Chloromethyl)-3-(4-(trifluoromethyl)phenoxy)benzene | 4.5 mmol, 1.3 g | ClCC1=CC(=CC=C1)OC1=CC=C(C=C1)C(F)(F)F | C14H10ClF3O
reactant | triethylphosphite | 6.8 mmol, 1.2 mL | C(C)OP(OCC)OCC | C6H15O3P
product | Diethyl 3-(4-(trifluoromethyl)phenoxy)benzylphosphonate | 1.76 g | FC(C1=CC=C(OC=2C=C(CP(OCC)(OCC)=O)C=CC2)C=C1)(F)F | C18H20F3O4P
